US07741321B2
A solution of crude (6-{4-[2-(tert-butyl-dimethyl-silanyloxymethyl)-pyrrolidine-1-sulfonyl]phenyl}-pyridin-2-yl)carbamic acid tert-butyl ester (22.2 g, 40.5 mmol) and TBAF (21.2 g, 81.0 mmol) in DCM (300 mL) was stirred at room temperature overnight. The mixture was washed with brine (100 mL×3), dried over Na2SO4 and evaporated under vacuum to give {6-[4-(2-hydroxymethyl-pyrrolidine-1-sulfonyl)-phenyl]pyridin-2-yl}carbamic acid tert-butyl ester (15.0 g, 86%), which was used directly in the next step.

reactant | (6-{4-[2-(tert-butyl-dimethyl-silanyloxymethyl)-pyrrolidine-1-sulfonyl]phenyl}-pyridin-2-yl)carbamic acid tert-butyl ester | 40.5 mmol, 22.2 g | C(C)(C)(C)OC(NC1=NC(=CC=C1)C1=CC=C(C=C1)S(=O)(=O)N1C(CCC1)C(O[SiH2]C(C)(C)C)(C)C)=O | C27H41N3O5SSi
reactant | TBAF | 81.0 mmol, 21.2 g | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
solvent | DCM | 300 mL | C(Cl)Cl | CH2Cl2
product | {6-[4-(2-hydroxymethyl-pyrrolidine-1-sulfonyl)-phenyl]pyridin-2-yl}carbamic acid tert-butyl ester | 15.0 g, 86% | C(C)(C)(C)OC(NC1=NC(=CC=C1)C1=CC=C(C=C1)S(=O)(=O)N1C(CCC1)CO)=O | C21H27N3O5S
